US05629406
(4R)-1-[(2S,3S)-3-(N2 -Benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide
Following a procedure similar to that described in Example 1, but using 146 mg (0.33 mmol) of (2S,3S)-3-(N2 -benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyric acid and 100 mg (0.33 mmol) of (4R)-N-t-butoxycarbonyl-4-chloro-N-t-butyl-L-prolinamide, 50 mg of the title compound were obtained as a colorless powder, melting at 103°-107° C.

reactant | (2S,3S)-3-(N2 -benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyric acid | 0.33 mmol, 146 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)O)O)CC1=CC=CC=C1 | C22H25N3O7
reactant | (4R)-N-t-butoxycarbonyl-4-chloro-N-t-butyl-L-prolinamide | 0.33 mmol, 100 mg | C(C)(C)(C)OC(=O)N(C([C@H]1NC[C@@H](C1)Cl)=O)C(C)(C)C | C14H25ClN2O3
product | (4R)-1-[(2S,3S)-3-(N2 -Benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide | 50 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)C[C@H](C1)Cl)O)CC1=CC=CC=C1 | C31H40ClN5O7
